US08278343B2
Preparation 26: 5-(4-Fluoro-phenyl)-pyrazin-2-ol
The title compound was prepared according to the method described for Preparation 25 using (4-fluoro-phenyl)-oxo-acetaldehyde and 2-amino-acetamide to afford the title compound as a pale yellow oil (2.33 g, 42%).

reactant | (4-fluoro-phenyl)-oxo-acetaldehyde | FC1=CC=C(C=C1)C(C=O)=O | C8H5FO2
reactant | 2-amino-acetamide | NCC(=O)N | C2H6N2O
product | 5-(4-Fluoro-phenyl)-pyrazin-2-ol | 2.33 g, 42% | FC1=CC=C(C=C1)C=1N=CC(=NC1)O | C10H7FN2O
